US05747516
Step B: Preparation of 5-Chloro 2,4-dihydro-2-methyl-4-(2-methylphenyl)-3H-1,2,4triazol-3-one
To a solution of 11.1 g 2,2-dimethyl-N-(2-methylphenyl) hydrazine carboxamide dissolved in 600 mL methylene chloride under N2 was added 17.1 g triphosgene. The solution was heated at refulx overnight, cooled, then concentrated under reduced pressure. The resulting residue was dissolved in ethyl acetate and washed with water, then saturated aqueous NaCl. The organic phase was dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (30 -50% ethyl acetate/hexanes as eluent) to afford 8.25 g (64%) of the title compound of Step B. 1H NMR (CDCl3) δ7.42 -7.30 (m,3H), 7.17 (d,1H), 3.54 (s,3H), 2.22 (s,3H).

reactant | 2,2-dimethyl-N-(2-methylphenyl) hydrazine carboxamide | 11.1 g | CN(NC(=O)NC1=C(C=CC=C1)C)C | C10H15N3O
reactant | triphosgene | 17.1 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro 2,4-dihydro-2-methyl-4-(2-methylphenyl)-3H-1,2,4triazol-3-one | 8.25 g, 64% | ClC=1N(C(N(N1)C)=O)C1=C(C=CC=C1)C | C10H10ClN3O
